US07838675B2
N-{2-[(3-Chloro-2-fluorobenzyl)thio]-6-methoxypyrimidin-4-yl}piperazine-1-sulfonamide
The title compound was prepared according to the procedure outlined in example 15 using tert-butyl 4-[({2-[(3-chloro-2-fluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]piperazine-1-carboxylate (the product from step ii) (0.26 g), trifluoroacetic acid (0.5 mL) and DCM (10 mL). Purification was by reverse phase HPLC (Symmetry as the stationary phase and TFA/acetonitrile as the mobile phase) then triturated with MeOH followed by Et2O to give the title compound as a white solid. Yield: 40 mg

reactant | tert-butyl 4-[({2-[(3-chloro-2-fluorobenzyl)thio]-6-methoxypyrimidin-4-yl}amino)sulfonyl]piperazine-1-carboxylate | ClC=1C(=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C)OC)C=CC1)F | C21H27ClFN5O5S2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[(3-Chloro-2-fluorobenzyl)thio]-6-methoxypyrimidin-4-yl}piperazine-1-sulfonamide | ClC=1C(=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCNCC2)OC)C=CC1)F | C16H19ClFN5O3S2
